US07842696B2
DIPEA (407 mg, 0.28 mL, 3.15 mmol) was added to a stirred solution of 4-benzyloxy-benzoic acid (200 mg, 0.87 mmol)(prepared by the method as described above) in DMF (2 mL). HOBT (142 mg, 1.05 mmol) and EDCI (201 mg, 1.05 mmol) were then added at room temperature. After 2 minutes, 2-amino-2-methyl-propionic acid methyl ester (161 mg, 1.05 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and filtered the solid precipitated out to afford 200 mg (70% yield) of 2-(4-benzyloxy-benzoylamino)-2-methyl-propionic acid methyl ester. LCMS Purity: 93%.

reactant | DIPEA | 3.15 mmol, 0.28 mL, 407 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-benzyloxy-benzoic acid | 0.87 mmol, 200 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | HOBT | 1.05 mmol, 142 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.05 mmol, 201 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-2-methyl-propionic acid methyl ester | 1.05 mmol, 161 mg | COC(C(C)(C)N)=O | C5H11NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-benzyloxy-benzoylamino)-2-methyl-propionic acid methyl ester | 200 mg, 70% yield | COC(C(C)(C)NC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C19H21NO4
